US04243666
4-Amino-2-chloro-6,7-dimethoxyquinazoline (17.3 g), piperidine-4-acetic acid hydrochloride (12.0 g) and triethylamine (20 ml) in n-butanol (500 ml) were stirred under reflux for 20 hours. The mixture was then cooled to 0°-4° and the separated product collected. The solid was slurried with acetone (100 ml), filtered, slurried with chloroform (100 ml), filtered and washed with ether to give 4-amino-2-(4-carboxymethylpiperidino)-6,7-dimethoxyquinazoline hydrochloride (19.0 g). A sample was recrystallised from acetic acid and had an m.p. of 250°-252°.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 17.3 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | piperidine-4-acetic acid hydrochloride | 12.0 g | Cl.N1CCC(CC1)CC(=O)O
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 500 ml | C(CCC)O | C4H10O
product | 4-amino-2-(4-carboxymethylpiperidino)-6,7-dimethoxyquinazoline hydrochloride | 19.0 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)CC(=O)O | InChI=1S/C17H22N4O4.ClH/c1-24-13-8-11-12(9-14(13)25-2)19-17(20-16(11)18)21-5-3-10(4-6-21)7-15(22)23;/h8-10H,3-7H2,1-2H3,(H,22,23)(H2,18,19,20);1H
